US09085578B2
3-amino-5-(2-chlorophenyl)-7-(pyrimidin-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one
A mixture of 3-amino-7-bromo-5-(2-chlorophenyl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one obtained in Step B of Example 18 (200 mg), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (179 mg), (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (21.6 mg), potassium acetate (116 mg) and N,N-dimethylformamide (3.0 mL) was stirred overnight at 110° C. under argon atmosphere. The reaction mixture was cooled to room temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give 3-amino-5-(2-chlorophenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one (277 mg). A mixture of 3-amino-5-(2-chlorophenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one (277 mg), 2-chloropyrimidine (131 mg), tripotassium phosphate (365 mg), tetrakis(triphenylphosphine)palladium(0) (99.0 mg), toluene (5.0 mL), ethanol (1.0 mL) and water (1.0 mL) was stirred overnight at 120° C. under argon atmosphere. The reaction mixture was cooled to room temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (basic silica gel, methanol/ethyl acetate) to give the title compound (47.0 mg).

reactant | 3-amino-5-(2-chlorophenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one | 277 mg | NC1=NNC2=C1C(N(C=C2B2OC(C(O2)(C)C)(C)C)C2=C(C=CC=C2)Cl)=O | C18H20BClN4O3
reactant | 2-chloropyrimidine | 131 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | tripotassium phosphate | 365 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 99.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 1.0 mL | O | H2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 3-amino-5-(2-chlorophenyl)-7-(pyrimidin-2-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one | 47.0 mg | NC1=NNC2=C1C(N(C=C2C2=NC=CC=N2)C2=C(C=CC=C2)Cl)=O | C16H11ClN6O
